US08426411B2
To a solution of N-cyclohexyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-amine (0.15 g, 0.57 mmol) in EtOH (10 mL) was added tin (II) chloride dihydrate (0.65 g, 2.9 mmol). The reaction mixture was heated at about 55° C. for about 1 h. The solvent was removed under reduced pressure and EtOAc (75 mL) and saturated aqueous NaHCO3 (25 mL) were added. The solid that formed was collected by vacuum filtration, washed with EtOAc (25 mL), and discarded. The filtrate was washed with saturated aqueous NaHCO3 (3×20 mL), dried over anhydrous MgSO4, filtered, and concd to give N-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-4,5-diamine (0.107 g, 87%) as a brown residue: LC/MS (Table 1, Method c) Rt=1.21 min; MS m/z 231 (M+H)+.

reactant | N-cyclohexyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-amine | 0.57 mmol, 0.15 g | C1(CCCCC1)NC=1C2=C(N=CC1[N+](=O)[O-])NC=C2 | C13H16N4O2
reactant | tin (II) chloride dihydrate | 2.9 mmol, 0.65 g | O.O.[Sn](Cl)Cl
solvent | EtOH | 10 mL | CCO | C2H6O
product | N-cyclohexyl-1H-pyrrolo[2,3-b]pyridine-4,5-diamine | 0.107 g, 87% | C1(CCCCC1)NC1=C2C(=NC=C1N)NC=C2 | C13H18N4
